US06130187
Preparation of 3-(3-acetyl-4-chloro-6-fluoro-2-methylbenzofuran-7-yl)-1-methyl-6-trifluoromethyluracil (Compound No. 101)
1.6 g (4.2 mmol) of 3-(4-chloro-6-fluoro-2-methylbenzofuran-7-yl)-1-methyl-6-trifluoromethyluracil was dissolved in 50 ml of nitromethane, and 5.6 g (42 mmol) of aluminum chloride was added thereto at room temperature. Further, 3.3 g (42 mmol) of acetyl chloride was dropwise added thereto. After completion of the dropwise addition, stirring was carried out for 5 hours under heating and ref refluxing. After completion of the reaction, the reaction solution was poured into a mixture of dilute hydrochloric acid and ice and extracted with ethyl acetate. The organic layer was washed sequentially with water and a saturated sodium chloride aqueous solution and then, dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure. Then, the obtained residue was purified by silica gel column chromatography to obtain 1.2 g (yield: 66.7%) of the desired product as pale yellow crystals. Melting point: 138-140° C.

reactant | 3-(4-chloro-6-fluoro-2-methylbenzofuran-7-yl)-1-methyl-6-trifluoromethyluracil | 4.2 mmol, 1.6 g | ClC1=CC(=C(C2=C1C=C(O2)C)N2C(N(C(=CC2=O)C(F)(F)F)C)=O)F | C15H9ClF4N2O3
reactant | aluminum chloride | 42 mmol, 5.6 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | acetyl chloride | 42 mmol, 3.3 g | C(C)(=O)Cl | C2H3ClO
reactant | hydrochloric acid | Cl | ClH
solvent | nitromethane | 50 ml | [N+](=O)([O-])C | CH3NO2
product | 3-(3-acetyl-4-chloro-6-fluoro-2-methylbenzofuran-7-yl)-1-methyl-6-trifluoromethyluracil | 1.2 g, yield: 66.7% | C(C)(=O)C1=C(OC2=C1C(=CC(=C2N2C(N(C(=CC2=O)C(F)(F)F)C)=O)F)Cl)C | C17H11ClF4N2O4
